US09169254B2
20% Pd(OH)2—C (30 mg) was placed into a solution of N-(3-methoxy-4-{(E)-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-acetamide (31 mg, 0.0617 mmol) in methanol (5 ml), and the atmosphere was replaced with hydrogen. The mixture was stirred at room temperature for 16 hours. The reaction mixture was filtered, and the filtrate was then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate) to give N-(3-methoxy-4-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-phenyl)-acetamide (20 mg).

reactant | N-(3-methoxy-4-{(E)-2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-acetamide | 0.0617 mmol, 31 mg | COC=1C=C(C=CC1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)NC(C)=O | C25H34N4O5S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
product | N-(3-methoxy-4-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-phenyl)-acetamide | 20 mg | COC=1C=C(C=CC1CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)NC(C)=O | C25H36N4O5S
